US08871782B2
3-Chloropropanesulfonyl chloride (0.206 mL, 1.69 mmol) was added dropwise to a suspension of 7-(3-aminopropoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.500 g, 1.41 mmol) in chloroform (17 mL), and the reaction was stirred for 30 minutes. The solvent was removed under reduced pressure, and the residue was dissolved in DMF (17 mL). 1,8-Diazabicyclo[5.4.0]undec-7-ene (0.316 mL, 2.11 mmol) was then added, and the reaction was stirred for 18 hours. The reaction was poured into water, and the mixture was extracted twice with dichloromethane. The combined organic fractions were washed sequentially with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluting with 97:3 dichloromethane:methanol) followed by recrystallization from acetonitrile to provide 0.237 g of 7-[3-(1,1-dioxidoisothiazolidin-2-yl)propoxy]-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as needle-like, white crystals, mp 142-144° C.

reactant | 3-Chloropropanesulfonyl chloride | 1.69 mmol, 0.206 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 7-(3-aminopropoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.41 mmol, 0.500 g | NCCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCC | C20H29N5O
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 2.11 mmol, 0.316 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | chloroform | 17 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-[3-(1,1-dioxidoisothiazolidin-2-yl)propoxy]-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.237 g | O=S1(N(CCC1)CCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCC)=O | C23H33N5O3S
